US09212182B2
A flask was charged with 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (257 mg, 0.520 mmol), 3-(trifluoromethyl)benzeneboronic acid (148 mg, 0.780 mmol), potassium carbonate (216 mg, 1.560 mmol), and Pd(Ph3P)4 (60.1 mg, 0.052 mmol). The vial was sealed with a septum cap and flushed with N2 (g), then Dioxane (1.950 mL) and Water (0.650 mL) were added via syringe. The mixture heated at 90° C. for 40 min. HCl (4 mL, 1M aq) was added and the mixture was extracted with EtOAc (2×10 mL). The combined organic layers were concentrated and the resulting residue was absorbed onto a plug of silica gel for purification by silica gel chromatography. The product was eluted through a Redi-Sep pre-packed silica gel column (12 g), eluting with a gradient of 0% to 3% MeOH in CH2Cl2, to provide racemic 1-(2-fluoro-5-methoxy-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide. Racemic 1-(2-fluoro-5-methoxy-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide was subjected to chiral separation by SFC on an AS-H column (20% MeOH/80% CO2) to give (P)-1-(2-fluoro-5-methoxy-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide as peak 1 and (M)-1-(2-fluoro-5-methoxy-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide as peak 2. Both peaks were isolated as off-white solids. Data for peak 1: 1H NMR (500 MHz, DMSO-d6) δ 11.6 (br s, 1H), 8.72 (d, J=1.71 Hz, 1H), 8.38 (d, J=2.03 Hz, 1H), 8.24 (d, J=9.72 Hz, 1H), 8.01 (br. s., 2H), 7.77-7.90 (m, 3H), 7.56 (d, J=10.31 Hz, 1H), 7.48 (d, J=6.89 Hz, 1H), 6.89 (d, J=8.98 Hz, 1H), 6.82 (d, J=9.67 Hz, 1H), 6.45 (d, J=1.71 Hz, 1H), 3.70-3.80 (s, 3H). m/z (ESI) 558.0 (M−H)−. Data for peak 2: 1H NMR (500 MHz, DMSO-d6) δ 11.66 (br. s., 1H), 8.72 (d, J=1.71 Hz, 1H), 8.38 (d, J=2.03 Hz, 1H), 8.24 (d, J=9.67 Hz, 1H), 8.01 (br. s., 2H), 7.76-7.90 (m, 3H), 7.56 (d, J=10.31 Hz, 1H), 7.48 (d, J=6.89 Hz, 1H), 6.89 (d, J=8.98 Hz, 1H), 6.82 (d, J=9.67 Hz, 1H), 6.45 (d, J=1.71 Hz, 1H), 3.75 (s, 3H). m/z (ESI) 558.0 (M−H)−.

reactant | 1-(4-bromo-5-fluoro-2-methoxyphenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.520 mmol, 257 mg | BrC1=CC(=C(C=C1F)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC | C19H13BrFN3O5S
reactant | 3-(trifluoromethyl)benzeneboronic acid | 0.780 mmol, 148 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 1.560 mmol, 216 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | Pd(Ph3P)4 | 0.052 mmol, 60.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | racemic 1-(2-fluoro-5-methoxy-3′-(trifluoromethyl)-[1,1′-biphenyl]-4-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | FC1=C(C=C(C(=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O)OC)C1=CC(=CC=C1)C(F)(F)F | C26H17F4N3O5S
